US07414047B2
4-Butyl-piperazine-1-carboxylic acid tert-butyl ester
Prepared from butanal and piperazine-1-carboxylic acid tert-butyl ester.

reactant | butanal | C(CCC)=O | C4H8O
reactant | piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-Butyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCC | C13H26N2O2
